US05604242
Sodium hydride (2.1 g, 53 mmol, 60% oil dispersion) was added portionwise to a stirred solution of 2-benzylbenzylalcohol (5.0 g, 25 mmol) in dry THF (125 ml) placed under an atmosphere of nitrogen. The mixture was heated at reflux for 1 h and then allowed to cool to ambient temperature within 30 minutes. (R)-1-(2-Bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide (8.6 g, 25 mmol, EP 374801) was added and the mixture was stirred for 2 days at ambient temperature. The reaction mixture was diluted with THF (100 ml) and filtered. The solvent was evaporated in vacuo to give an oily residue which was purified by column chromatography (700 g, heptane/ethyl acetate=1/1) to give 0.8 g of (R)-1-(2-(2-benzylbenzyloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil.

reactant | Sodium hydride | 53 mmol, 2.1 g | [H-].[Na+]
reactant | 2-benzylbenzylalcohol | 25 mmol, 5.0 g | C(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C14H14O
reactant | (R)-1-(2-Bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide | 25 mmol, 8.6 g | Br.C(C)OC(=O)[C@H]1CN(CCC1)CCBr
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (R)-1-(2-(2-benzylbenzyloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 0.8 g | C(C)OC(=O)[C@H]1CN(CCC1)CCOCC1=C(C=CC=C1)CC1=CC=CC=C1 | C24H31NO3
